US07166588B2
Step 2 5-(6-Hydroxy-1-oxohexyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-2(1H)-one
5-(6-Acetyloxy-1-oxohexyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-2(1H)-one (10.0 g, 30.6 mmol) is suspended in anhydrous ethanol (150 ml), mixed with catalyst amounts of 4-methylbenzenesulfonic acid monohydrate and stirred for five hours at boiling temperature. The solvent volume is concentrated by evaporation to one third, and the product is obtained in the form of light yellow needles (8.22 g, 93.5%) by crystallization at −20° C.

reactant | 5-(6-Acetyloxy-1-oxohexyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-2(1H)-one | 30.6 mmol, 10.0 g | C(C)(=O)OCCCCCC(=O)C1CN2C3=C(C=CC=C3C1)CC2=O | C19H23NO4
reactant | 4-methylbenzenesulfonic acid monohydrate | O.CC1=CC=C(C=C1)S(=O)(=O)O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-(6-Hydroxy-1-oxohexyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-2(1H)-one | 8.22 g, 93.5% | OCCCCCC(=O)C1CN2C3=C(C=CC=C3C1)CC2=O | C17H21NO3
